### PR TITLE
[Merged by Bors] - feat(RingTheory/GradedAlgebra/Noetherian): properties of a graded Noetherian ring

### PR DESCRIPTION
**Pull request by FMLJohn**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by FMLJohn** [comment]
I have proved that for a Noetherian graded ring, its 0th grade is also a Noetherian ring.

**Comment by FMLJohn** [comment]
@kbuzzard @eric-wieser

File: Mathlib/RingTheory/GradedAlgebra/Basic.lean [hunk 1]
```diff
@@ -289,6 +289,50 @@ def GradedRing.projZeroRingHom : A →+* A where
...
+
+/--
+The subsemiring `𝒜 0` of the internally graded semiring `A`.
+-/
+def GradeZero.subsemiring : Subsemiring A where
+  carrier := 𝒜 0
+  mul_mem' ha hb := add_zero (0 : ι) ▸ SetLike.mul_mem_graded ha hb
+  one_mem' := SetLike.one_mem_graded 𝒜
+  add_mem' := fun ha hb ↦ add_mem ha hb
+  zero_mem' := zero_mem (𝒜 0)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/GradedAlgebra/Basic.lean:304]: This belongs in `DirectSum/Internal.lean`, as does the `subring` version below

File: Mathlib/RingTheory/GradedAlgebra/Basic.lean [hunk 2]
```diff
@@ -334,3 +378,56 @@ theorem coe_decompose_mul_of_right_mem (n) [Decidable (i ≤ n)] (b_mem : b ∈
...
+The subring `𝒜 0` of the internally graded ring `A`.
+-/
+def GradeZero.subring : Subring A where
+  carrier := 𝒜 0
+  mul_mem' := by
+    intro a b ha hb; let hab := SetLike.mul_mem_graded ha hb;
+    simp only [add_zero] at hab; exact hab
+  one_mem' := SetLike.one_mem_graded 𝒜
+  add_mem' := fun ha hb ↦ add_mem ha hb
+  zero_mem' := zero_mem (𝒜 0)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/GradedAlgebra/Basic.lean:402]:
```suggestion
  __ := GradeZero.subsemiring 𝒜
```
rather than repeating all the work

File: lake-manifest.json
Comment (eric-wieser) [inline lake-manifest.json:1]: You should revert the change in this file.

Comment (eric-wieser) [reply lake-manifest.json:1]: More precisely; you should not run `lake update` if you are working on mathlib itself; you should run `git pull origin master`

Comment (FMLJohn) [reply lake-manifest.json:1]: Hi Eric! I have messed up my codes by mistake. Now there are too many errors. Is there any way I can erase the former codes and download mathlib4 again?

Comment (FMLJohn) [reply lake-manifest.json:1]: But I guess I have made a mistake: I have run `git pull origin master` before running `git revert HEAD`. Now it seems that the situation is hard to deal with. How can I resolve this issue?

Comment (eric-wieser) [reply lake-manifest.json:1]: You can do `git reset --hard `89d042b46480948b15e77cdca758798cb5cce2bd` to take things back to where you were before you changed this file, then `git push -f`

Comment (FMLJohn) [reply lake-manifest.json:1]: I have successfully returned to the previous commit (the one before I ran `lake update`) and I have run `git pull origin master`, but no file compiles anymore. The error message is:
```
`/Users/lifangming/.elan/toolchains/leanprover--lean4---v4.2.0-rc1/bin/lake print-paths Init Mathlib.GroupTheory.MonoidLocalization Mathlib.RingTheory.NonZeroDivisors Mathlib.RingTheory.OreLocalization.OreSet Mathlib.Tactic.NoncommRing` failed:
...
...
FileWorker.EditableDocument
./lake-packages/std/././Std/CodeAction/Misc.lean:362:36: error: invalid field 'versionedIdentifier', the environment does not contain 'Lean.Server.FileWorker.EditableDocument.versionedIdentifier'
  doc
has type
  FileWorker.EditableDocument
error: external command `/Users/lifangming/.elan/toolchains/leanprover--lean4---v4.2.0-rc1/bin/lean` exited with code 1
```
Is it because the version of mathlib4 I have right now is incorrect?

Comment (eric-wieser) [reply lake-manifest.json:1]: After you run `git pull origin master`, you should push your change. Once CI is happy, you'll be able to run `lake exe cache get` and everything should be happy again.

Comment (FMLJohn) [reply lake-manifest.json:1]: I have pushed my change, but it still cannot pass CI.

Comment (eric-wieser) [reply lake-manifest.json:1]: That's because you need to fix your code! The merge went just fine, but you nee to deal with the fact that mathlib is not the same as it was when you started.

 The last commit you pushed just deleted all your code; you should revert it.

File: Mathlib/RingTheory/GradedAlgebra/Basic.lean [hunk 3]
```diff
@@ -352,3 +396,56 @@ theorem coe_decompose_mul_of_right_mem (n) [Decidable (i ≤ n)] (b_mem : b ∈
 end DirectSum
 
 end CanonicalOrder
+
+section GradeZero
+
+variable {ι A σ : Type*}
+variable [Ring A]
+variable [DecidableEq ι] [CanonicallyOrderedAddMonoid ι]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/GradedAlgebra/Basic.lean:404]: This has been renamed to 
```suggestion
variable [DecidableEq ι] [CanonicallyOrderedAddCommMonoid ι]
```

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 4]
```diff
@@ -773,7 +773,7 @@ theorem factorization_eq_of_coprime_right {p a b : ℕ} (hab : Coprime a b) (hpb
 
 /-- The prime factorizations of coprime `a` and `b` are disjoint -/
 theorem factorization_disjoint_of_coprime {a b : ℕ} (hab : Coprime a b) :
-    Disjoint a.factorization.support b.factorization.support := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorization/Basic.lean:776]: Why did you change this file?

File: Mathlib/NumberTheory/Dioph.lean [hunk 5]
```diff
@@ -518,7 +518,7 @@ theorem diophFn_vec_comp1 {S : Set (Vector3 ℕ (succ n))} (d : Dioph S) {f : Ve
 #align dioph.dioph_fn_vec_comp1 Dioph.diophFn_vec_comp1
 
 theorem vec_ex1_dioph (n) {S : Set (Vector3 ℕ (succ n))} (d : Dioph S) :
-    Dioph {v : Fin2 n → ℕ | ∃ x, (x::v) ∈ S} :=
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Dioph.lean:521]: Similarly here, you should not need to change this

File: Mathlib/RingTheory/Noetherian.lean [hunk 6]
```diff
@@ -13,6 +13,7 @@ import Mathlib.Order.Filter.EventuallyConst
 import Mathlib.Order.OrderIsoNat
 import Mathlib.RingTheory.Finiteness
 import Mathlib.RingTheory.Nilpotent
+import Mathlib.RingTheory.GradedAlgebra.Basic
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Noetherian.lean:16]: I would guess that the issues in downstream files are caused by adding this import. I suggest you put the `IsNoetherianRing` result in a new `GradedAlgebra.Noetherian` file.

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 7]
```diff
@@ -276,6 +276,57 @@ theorem coe_of_mul_apply {i : ι} (r : A i) (r' : ⨁ i, A i) (n : ι) [Decidabl
...
+variable (A : ι → σ) [SetLike.GradedMonoid (fun i ↦ A i)]
+
+/--
+The subring `A 0` of `R`.
+-/
+def GradeZero.subring : Subring R where
+  carrier := A 0
+  __ := GradeZero.subsemiring A
+  neg_mem' := by
+    simp only [SetLike.mem_coe, neg_mem_iff, imp_self, forall_const]
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:321]: Does this or similar work?
```suggestion
  neg_mem' hx := neg_mem hx
```

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 8]
```diff
@@ -276,6 +276,57 @@ theorem coe_of_mul_apply {i : ι} (r : A i) (r' : ⨁ i, A i) (n : ι) [Decidabl
...
+-/
+def GradeZero.subsemiring : Subsemiring R where
+  carrier := A 0
+  mul_mem' := by
+    intro a b ha hb
+    simp only [SetLike.mem_coe]
+    rw [show A 0 = A (0 + 0) by simp only [add_zero]]
+    exact SetLike.mul_mem_graded ha hb
+  one_mem' := SetLike.one_mem_graded A
+  add_mem' := λ a1 a2 ↦ add_mem a1 a2
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:297]:
```suggestion
  add_mem' a1 a2 := add_mem a1 a2
```

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 9]
```diff
@@ -276,6 +276,57 @@ theorem coe_of_mul_apply {i : ι} (r : A i) (r' : ⨁ i, A i) (n : ι) [Decidabl
...
+variable [SetLike σ R] [AddSubmonoidClass σ R]
+variable (A : ι → σ) [SetLike.GradedMonoid (fun i ↦ A i)]
+
+/--
+The subsemiring `A 0` of `R`.
+-/
+def GradeZero.subsemiring : Subsemiring R where
+  carrier := A 0
+  mul_mem' := by
+    intro a b ha hb
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:292]:
```suggestion
  mul_mem' a b ha hb := by
```

File: Mathlib/NumberTheory/Dioph.lean (hunk 5 above)
Comment (FMLJohn) [reply Mathlib/NumberTheory/Dioph.lean:521]: It was very strange. Originally The file Mathlib/NumberTheory/Dioph.lean has some errors. Lean4 gave me some suggestions on how to change the codes. Hence I followed the suggestions. But then there were some merge conflicts.

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 9 above)
Comment (FMLJohn) [reply Mathlib/Algebra/DirectSum/Internal.lean:292]: No this doesn't work. I have tried to change my codes according to what you said, but it resulted in an error:
```
type mismatch
  fun a b ha hb ↦ ?m.460700 a b ha hb
has type
  (a : a✝ ∈ ↑(A 0)) →
    (b : b✝ ∈ ↑(A 0)) →
      (ha : ?m.460697 a b) → (hb : ?m.460698 a b ha) → ?m.460699 a b ha hb : Sort (imax ?u.460688 ?u.460691 ?u.460694)
but is expected to have type
  a✝ ∈ ↑(A 0) → b✝ ∈ ↑(A 0) → a✝ * b✝ ∈ ↑(A 0) : Prop
the following variables have been introduced by the implicit lambda feature
  a✝ : R
  b✝ : R
you can disable implicit lambdas using `@` or writing a lambda expression with `{}` or `[]` binder annotations.
```

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 8 above)
Comment (FMLJohn) [reply Mathlib/Algebra/DirectSum/Internal.lean:297]: Yeah this works. Thanks!

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 7 above)
Comment (FMLJohn) [reply Mathlib/Algebra/DirectSum/Internal.lean:321]: Yeah this works.

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 9 above)
Comment (kbuzzard) [reply Mathlib/Algebra/DirectSum/Internal.lean:292]: looks like a and b are implicit -- try `mul_mem' ha hb := by`?

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Internal.lean:292]: Or alternatively, `mul_mem' {a b} ha hb := by`, as the error message is alluding to.

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 10]
```diff
@@ -276,6 +276,56 @@ theorem coe_of_mul_apply {i : ι} (r : A i) (r' : ⨁ i, A i) (n : ι) [Decidabl
 
 end CanonicallyOrderedAddCommMonoid
 
+section GradeZeroSubsemiring
+
+variable [Semiring R]
+variable [CanonicallyOrderedAddCommMonoid ι]
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:282]: You're not actually using this order, right? I think `AddMonoid` would be sufficient here.

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 11]
```diff
@@ -276,6 +276,56 @@ theorem coe_of_mul_apply {i : ι} (r : A i) (r' : ⨁ i, A i) (n : ι) [Decidabl
...
+variable [SetLike σ R] [AddSubmonoidClass σ R]
+variable (A : ι → σ) [SetLike.GradedMonoid (fun i ↦ A i)]
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:284]:
```suggestion
variable (A : ι → σ) [SetLike.GradedMonoid A]
```
(untested)

File: Mathlib/RingTheory/GradedAlgebra/Basic.lean [hunk 12]
```diff
@@ -352,3 +377,34 @@ theorem coe_decompose_mul_of_right_mem (n) [Decidable (i ≤ n)] (b_mem : b ∈
...
+variable [DecidableEq ι] [CanonicallyOrderedAddCommMonoid ι]
+variable [SetLike σ A] [AddSubgroupClass σ A]
+variable (𝒜 : ι → σ) [GradedRing 𝒜]
+
+/--
+The ring homomorphism from `A` to `𝒜 0` sending every `a : A` to `a₀`.
+-/
+def GradedRing.projZeroRingHom'' : A →+* (𝒜 0) :=
+  ((GradedRing.projZeroRingHom 𝒜).codRestrict _ fun _x => SetLike.coe_mem _ :
+  A →+* GradeZero.subring 𝒜)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/GradedAlgebra/Basic.lean:394]: There's no need to have this definition, its the same as the one further up.

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 9 above)
Comment (FMLJohn) [reply Mathlib/Algebra/DirectSum/Internal.lean:292]: Yeah now it works! Thank you very much!

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 10 above)
Comment (FMLJohn) [reply Mathlib/Algebra/DirectSum/Internal.lean:282]: Yeah, `AddMonoid` is enough!

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 11 above)
Comment (FMLJohn) [reply Mathlib/Algebra/DirectSum/Internal.lean:284]: I've changed it to `SetLike.GradedMonoid A`.

File: Mathlib/RingTheory/GradedAlgebra/Basic.lean (hunk 12 above)
Comment (FMLJohn) [reply Mathlib/RingTheory/GradedAlgebra/Basic.lean:394]: Yeah, it is unnecessary. I have deleted the definition and the whole section related to it.

Comment (eric-wieser) [reply Mathlib/RingTheory/GradedAlgebra/Basic.lean:394]: Don't forget to push!

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 13]
```diff
@@ -276,6 +276,55 @@ theorem coe_of_mul_apply {i : ι} (r : A i) (r' : ⨁ i, A i) (n : ι) [Decidabl
...
+
+/--
+The subsemiring `A 0` of `R`.
+-/
+def GradeZero.subsemiring : Subsemiring R where
+  carrier := A 0
+  mul_mem' {a b} ha hb := by
+    simp only [SetLike.mem_coe]
+    rw [show A 0 = A (0 + 0) by simp only [add_zero]]
+    exact SetLike.mul_mem_graded ha hb
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:294]:
```suggestion
  mul_mem' ha hb := add_zero (0 : ι) ▸ SetLike.mul_mem_graded ha hb
```

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 14]
```diff
@@ -276,6 +276,55 @@ theorem coe_of_mul_apply {i : ι} (r : A i) (r' : ⨁ i, A i) (n : ι) [Decidabl
...
+  one_mem' := SetLike.one_mem_graded A
+  add_mem' a1 a2 := add_mem a1 a2
+  zero_mem' := zero_mem (A 0)
+
+/--
+The semiring `A 0` derived from `SetLike.GradedMonoid (fun i ↦ A i)`.
+-/
+instance GradeZero.semiring' : Semiring (A 0) := (GradeZero.subsemiring A).toSemiring
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:302]:
```suggestion
instance GradeZero.instSemiring : Semiring (A 0) := (GradeZero.subsemiring A).toSemiring
```

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 15]
```diff
@@ -276,6 +276,55 @@ theorem coe_of_mul_apply {i : ι} (r : A i) (r' : ⨁ i, A i) (n : ι) [Decidabl
...
+  mul_mem' {a b} ha hb := by
+    simp only [SetLike.mem_coe]
+    rw [show A 0 = A (0 + 0) by simp only [add_zero]]
+    exact SetLike.mul_mem_graded ha hb
+  one_mem' := SetLike.one_mem_graded A
+  add_mem' a1 a2 := add_mem a1 a2
+  zero_mem' := zero_mem (A 0)
+
+/--
+The semiring `A 0` derived from `SetLike.GradedMonoid (fun i ↦ A i)`.
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:300]:
```suggestion
The semiring `A 0` derived from `SetLike.GradedMonoid A`.
```

File: Mathlib/RingTheory/GradedAlgebra/Basic.lean [hunk 16]
```diff
@@ -307,6 +307,31 @@ def GradedRing.projZeroRingHom : A →+* A where
       simp only [add_mul, decompose_add, add_apply, AddMemClass.coe_add, ha, hb]
 #align graded_ring.proj_zero_ring_hom GradedRing.projZeroRingHom
 
+section GradeZero
+
+/--
+The semiring homomorphism from `A` to `𝒜 0` sending every `a : A` to `a₀`.
+-/
+def GradedRing.projZeroRingHom' : A →+* (𝒜 0) :=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/GradedAlgebra/Basic.lean:315]: nit:
```suggestion
def GradedRing.projZeroRingHom' : A →+* 𝒜 0 :=
```

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 17]
```diff
@@ -35,6 +35,16 @@ When `CompleteLattice.Independent (Set.range A)` (a weaker condition than
...
 
+This file also provides some extra structure on `A 0`, namely:
+* `SetLike.GradeZero.subsemiring`, which leads to
+  * `SetLike.GradeZero.instSemiring`
+  * `SetLike.GradeZero.instCommSemiring`
+* `SetLike.GradeZero.subring`, which leads to
+  * `SetLike.GradeZero.instRing`
+  * `SetLike.GradeZero.instCommRing`
+* `SetLike.GradeZero.subalgebra`, which leads to
+  * `SetLike.GradeZero.instAlgebra`
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:46]: @FMLJohn: I took the liberty of adding the `Comm` versions and the `Algebra` instance.

File: Mathlib/Algebra/GradedMonoid.lean [hunk 18]
```diff
@@ -582,6 +582,27 @@ variable {S : Type*} [SetLike S R] [Monoid R] [AddMonoid ι]
...
+  one_mem' := SetLike.one_mem_graded A
+
+/-- The monoid `A 0` inherited from `R` in the presence of `SetLike.GradedMonoid A`. -/
+instance instMonoid : Monoid (A 0) := inferInstanceAs <| Monoid (GradeZero.submonoid A)
+
+@[simp, norm_cast] theorem coe_one : ↑(1 : A 0) = (1 : R) := rfl
+
+@[simp, norm_cast] theorem coe_mul (a b : A 0) : ↑(a * b) = (↑a * ↑b : R) := rfl
+
+@[simp, norm_cast] theorem coe_pow (a : A 0) (n : ℕ) : ↑(a ^ n) = (↑a : R) ^ n := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/GradedMonoid.lean:602]: @FMLJohn: whenever you write a new instance, you should write lemmas like this (proven with `rfl`) that characterize it.

Note that we don't need to repeat ourselves for the semiring and ring instances, since they all use the same definition of `*`/`1`/`^` so these lemmas match all three of them.

File: Mathlib/RingTheory/GradedAlgebra/Basic.lean [hunk 19]
```diff
@@ -307,6 +307,31 @@ def GradedRing.projZeroRingHom : A →+* A where
...
+The semiring homomorphism from `A` to `𝒜 0` sending every `a : A` to `a₀`.
+-/
+def GradedRing.projZeroRingHom' : A →+* 𝒜 0 :=
+  ((GradedRing.projZeroRingHom 𝒜).codRestrict _ fun _x => SetLike.coe_mem _ :
+  A →+* GradeZero.subsemiring 𝒜)
+
+@[simp] lemma GradedRing.coe_projZeroRingHom'_apply (a : A) :
+    (GradedRing.projZeroRingHom' 𝒜 a : A) = GradedRing.projZeroRingHom 𝒜 a := rfl
+
+lemma GradedRing.projZeroRingHom'_apply_coe (a : 𝒜 0) :
```
Comment (eric-wieser) [inline Mathlib/RingTheory/GradedAlgebra/Basic.lean:322]: Does the linter complain if you mark this `simp`?

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 17 above)
Comment (FMLJohn) [reply Mathlib/Algebra/DirectSum/Internal.lean:46]: Oh I see! Nice!

File: Mathlib/RingTheory/GradedAlgebra/Basic.lean (hunk 19 above)
Comment (FMLJohn) [reply Mathlib/RingTheory/GradedAlgebra/Basic.lean]: Hi Eric! I see some of the error messages look like this:
```
error: SetLike.GradeZero.coe_natCast.{u_4, u_2, u_1} Left-hand side does not simplify, when using the simp lemma on itself.
```
Does it mean that I need to delete the `simp` tag of the theorems?

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 20]
```diff
@@ -337,6 +346,90 @@ theorem DirectSum.coeAlgHom_of [AddMonoid ι] [CommSemiring S] [Semiring R] [Alg
...
+
+/-- The subsemiring `A 0` of `R`. -/
+def subsemiring : Subsemiring R where
+  carrier := A 0
+  __ := submonoid A
+  add_mem' := add_mem
+  zero_mem' := zero_mem (A 0)
+
+/-- The semiring `A 0` inherited from `R` in the presence of `SetLike.GradedMonoid A`. -/
+instance instSemiring : Semiring (A 0) := (subsemiring A).toSemiring
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:365]: I'm a bit worried that these instances might be a bad idea; I'm not sure if lean actually has any way to infer `A`, and this might be the explanation for the simpNF failure and the other issues you saw before you moved the imports around.

Perhaps @vierkantor or @digama0 has opinions?

Comment (Vierkantor) [reply Mathlib/Algebra/DirectSum/Internal.lean:365]: I can't reproduce the `simpNF` failure yet:
```
set_option trace.Meta.synthInstance true in
set_option trace.Meta.Tactic.simp true in
example (n : ℕ) : (n : A 0) = (n : R) := by simp only [coe_natCast]
```
succeeds, and the trace shows `  [] ✅ apply @SetLike.GradeZero.instSemiring to Semiring (↥A 0) ▶`. But yeah, it could very well turn out that the higher-order matching problem `A 0 = ?A 0` is too difficult.

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 21]
```diff
@@ -337,6 +346,90 @@ theorem DirectSum.coeAlgHom_of [AddMonoid ι] [CommSemiring S] [Semiring R] [Alg
...
+
+/-- The linter message "error: SetLike.GradeZero.coe_natCast.{u_4, u_2, u_1} Left-hand side
+  does not simplify, when using the simp lemma on itself." is wrong. The LHS does simplify. -/
+@[nolint simpNF, simp, norm_cast] theorem coe_natCast (n : ℕ) : (n : A 0) = (n : R) := rfl
+
+/-- The linter message "error: SetLike.GradeZero.coe_ofNat.{u_4, u_2, u_1} Left-hand side does
+  not simplify, when using the simp lemma on itself." is wrong. The LHS does simplify. -/
+@[nolint simpNF, simp, norm_cast] theorem coe_ofNat (n : ℕ) [n.AtLeastTwo] :
+    (no_index (OfNat.ofNat n) : A 0) = (OfNat.ofNat n : R) := rfl
```
Comment (kbuzzard) [inline Mathlib/Algebra/DirectSum/Internal.lean:374]: So is this actually a bug in the simpNF linter which needs to be reported?

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Internal.lean:374]: Yes, but I think it's not the only such one.

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 22]
```diff
@@ -337,6 +346,90 @@ theorem DirectSum.coeAlgHom_of [AddMonoid ι] [CommSemiring S] [Semiring R] [Alg
...
+
+/-- The semiring `A 0` inherited from `R` in the presence of `SetLike.GradedMonoid A`. -/
+instance instSemiring : Semiring (A 0) := (subsemiring A).toSemiring
+
+/-- The linter message "error: SetLike.GradeZero.coe_natCast.{u_4, u_2, u_1} Left-hand side
+  does not simplify, when using the simp lemma on itself." is wrong. The LHS does simplify. -/
+@[nolint simpNF, simp, norm_cast] theorem coe_natCast (n : ℕ) : (n : A 0) = (n : R) := rfl
+
+/-- The linter message "error: SetLike.GradeZero.coe_ofNat.{u_4, u_2, u_1} Left-hand side does
+  not simplify, when using the simp lemma on itself." is wrong. The LHS does simplify. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:372]: These should not be doc-comments; no one reading the docs cares about this.
```suggestion
/- The linter message "error: SetLike.GradeZero.coe_natCast.{u_4, u_2, u_1} Left-hand side
  does not simplify, when using the simp lemma on itself." is wrong. The LHS does simplify. -/
@[nolint simpNF, simp, norm_cast] theorem coe_natCast (n : ℕ) : (n : A 0) = (n : R) := rfl

/- The linter message "error: SetLike.GradeZero.coe_ofNat.{u_4, u_2, u_1} Left-hand side does
  not simplify, when using the simp lemma on itself." is wrong. The LHS does simplify. -/
```

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 20 above)
Comment (kbuzzard) [reply Mathlib/Algebra/DirectSum/Internal.lean:365]: The simpNF linter is still complaining about line 369 of this file even though the imports are now working. Would you be happy with them being local instances? At the end of the day, in algebraic geometry over a field, A 0 is typically that field. 

Perhaps another approach would be to assume that R is a comm ring, A is a graded R-algebra and the map R -> A identifies R with A 0; then one can work with R instead of A 0 and this is probably enough in applications I guess?

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Internal.lean:365]: An easy way out is to write `GradeZero.subring A` instead of `A 0`, which definitely doesn't cause any instance issue.

I'm also happy with merging them as is, and revisiting it if/when we notice issues.

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Internal.lean:365]: > Is there a natural Lean way of saying "I am a graded R-algebra and actually R is precisely my A 0?"

Not that I know of. We're also missing this case for "I am an R-algebra and actually my center is precisely R"

File: Mathlib/RingTheory/GradedAlgebra/Noetherian.lean [hunk 23]
```diff
@@ -0,0 +1,33 @@
...
+import Mathlib.RingTheory.Noetherian
+import Mathlib.RingTheory.GradedAlgebra.HomogeneousIdeal
+
+/-!
+# The properties of a graded Noetherian ring.
+
+This file proves some properties of a graded Noetherian ring:
+1. The 0-th grade of a Noetherian ring is also a Noetherian ring.
+2. For a Noetherian ring `A` which is internally graded by `𝒜`,
+   `⨁_{i>0} 𝒜ᵢ` is finitely generated as an ideal of `A`.
```
Comment (eric-wieser) [inline Mathlib/RingTheory/GradedAlgebra/Noetherian.lean:15]:
```suggestion
```

Comment (eric-wieser) [reply Mathlib/RingTheory/GradedAlgebra/Noetherian.lean]: (applied)

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 20 above)
Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Internal.lean:366]: I've added some TODO comments warning about the unification performance here, I think it's then safe to merge as is.

**Review by kbuzzard — COMMENTED** [review]
Modulo the grammar issue I just flagged, this looks good to me. @eric-wieser you wrote "I'm also happy with merging them as is, and revisiting it if/when we notice issues." last November -- do you still feel the same way?

**Comment by joneugster** [comment]
bench!

**Comment by joneugster** [comment]
This PR has approving reviews by both @eric-wieser and @kbuzzard, and superficially it seems to me that there's nothing speaking against a merge.

maintainer merge

**Comment by mattrobball** [comment]
!bench

**Comment by mattrobball** [comment]
Let's merge master on this before sending it off at least.

**Comment by mattrobball** [comment]
bors merge
